US04386085
93 g of bromine were added dropwise to a solution of 86 g of N,N-diethylaniline in 400 ml of acetic acid and the mixture was poured into an ice-water mixture. The mixture was extracted with methylene chloride and the organic phase was washed with aqueous sodium bicarbonate solution, dried and evaporated to dryness to obtain 125 g of 4-(N,N-diethylamino)-bromobenzene boiling at 97° C. at 0.6 mm Hg.

reactant | bromine | 93 g | BrBr | Br2
reactant | N,N-diethylaniline | 86 g | C(C)N(C1=CC=CC=C1)CC | C10H15N
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | 4-(N,N-diethylamino)-bromobenzene | 125 g | C(C)N(CC)C1=CC=C(C=C1)Br | C10H14BrN
